US05559111
a) N-Tert-butoxycarbonyl-2(R,S)-methyl-4(S)-hydroxy-5(S)-amino-7(S)-isopropyl-8-(p-tert-butyl-phenyl)-octanoic acid (N-butyl)amide
150 m g of N-tert-butoxycarbonyl-2-methylene-4(S)-hydroxy-5(S)-amino-7(S)-isopropyl-8-(p-tert-butyl-phenyl)-octanoic acid (N-butyl)amide (diastereoisomer I) are hydrogenated in the presence of 150 mg of 10% Pd/C in 20 ml of tetrahydrofuran for 2 hours at room temperature and under normal pressure. The reaction mixture is filtered and concentrated by evaporation. The residue is purified by means of FC (50 g of silica gel, dichloromethane/diethyl ether=8:2). The title compound is obtained in the form of a diastereoisomeric mixture: Rf (dichloromethane/diethyl ether=8:2)=0.18.

reactant | N-tert-butoxycarbonyl-2-methylene-4(S)-hydroxy-5(S)-amino-7(S)-isopropyl-8-(p-tert-butyl-phenyl)-octanoic acid (N-butyl)amide | C(CCC)NC(C(C[C@@H]([C@H](C[C@H](CC1=CC=C(C=C1)C(C)(C)C)C(C)C)NC(=O)OC(C)(C)C)O)=C)=O | C31H52N2O4
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | Pd/C | 150 mg | [Pd] | Pd
product | N-Tert-butoxycarbonyl-2(R,S)-methyl-4(S)-hydroxy-5(S)-amino-7(S)-isopropyl-8-(p-tert-butyl-phenyl)-octanoic acid (N-butyl)amide | C(CCC)NC(C(C[C@@H]([C@H](C[C@H](CC1=CC=C(C=C1)C(C)(C)C)C(C)C)NC(=O)OC(C)(C)C)O)C)=O | C31H54N2O4
